US07786143B2
Step 1: 4-(4-Phenyl-thiazol-2-yl)-piperidine hydrobromide (Intermediate 1)
A mixture of 1 g (4.1 mmol) 4-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (commercially available) and 0.816 g (4.1 mmol) 2-bromo-1-phenyl-ethanone (commercially available) in 10 ml methanol was stirred at 70° C. for 22 h. After evaporation to dryness the residue was suspended in diethyl ether and filtered. The residue washed with diethyl ether and dried under vacuum to yield 1.279 g (96%) of the title compound in white crystalline form. (m/e): 245.2 (MH+(−HBr); 100%).

reactant | 4-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 4.1 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N)=S | C11H20N2O2S
reactant | 2-bromo-1-phenyl-ethanone | 4.1 mmol, 0.816 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4-Phenyl-thiazol-2-yl)-piperidine hydrobromide | 1.279 g, 96% | Br.C1(=CC=CC=C1)C=1N=C(SC1)C1CCNCC1 | InChI=1S/C14H16N2S.BrH/c1-2-4-11(5-3-1)13-10-17-14(16-13)12-6-8-15-9-7-12;/h1-5,10,12,15H,6-9H2;1H
